US04092321
A suspension of 5-(phenylthio)-2-pyridone (4.06 g., .02 mole) in 50 ml. of phosphorous oxychloride containing 10 g. of phosphorous pentachloride is heated at reflux for 6 hours. Excess phosphorous oxychloride is removed in vacuo and the residue is poured onto icewater mixture. The mixture is cooled and the pH adjusted to neutral with dilute aqueous sodium hydroxide. The resultant suspension is extracted with methylene chloride. The combined extracts are washed with water, dried and evaporated in vacuo to yield 2-chloro-5-(phenylthio)pyridine.

reactant | 5-(phenylthio)-2-pyridone | .02 mole, 4.06 g | C1(=CC=CC=C1)SC=1C=CC(NC1)=O | C11H9NOS
reactant | phosphorous oxychloride | 10 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-chloro-5-(phenylthio)pyridine | ClC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H8ClNS
